US05684011
Step 1: 2-[2-(1,3-dioxolan-2-yl)ethylthio]-pyrimidine
Potassium carbonate (0.766 g) was added to a stirred solution of 2-mercaptopyrimidine (0.622 g) in acetone (10 cm3) at ambient temperature. 2-(2-Bromoethyl)-1,3-dioxolane (1 g) was added to the resulting mixture and the reaction heated under reflux for 3.5 hours. The reaction mixture was left to cool overnight, then poured into water and extracted with diethyl ether. The organic phase was dried with magnesium sulfate and evaporated under reduced pressure to give a yellow oil. This material was used in step 2 without further purification. M+ =212; 1H NMR (CDCl3): δ2.25 (2H,m); 3.25(2H,t); 3.90 (2H,m); 4.00 (2H,m); 5.05 (1H,t); 6.96 (1H,t); 8.52 (2H,d).

reactant | Potassium carbonate | 0.766 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-mercaptopyrimidine | 0.622 g | SC1=NC=CC=N1 | C4H4N2S
reactant | 2-(2-Bromoethyl)-1,3-dioxolane | 1 g | BrCCC1OCCO1 | C5H9BrO2
reactant | water | O | H2O
solvent | acetone | 10 cm3 | CC(=O)C | C3H6O
product | 2-[2-(1,3-dioxolan-2-yl)ethylthio]-pyrimidine | O1C(OCC1)CCSC1=NC=CC=N1 | C9H12N2O2S
